Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
spironolactone
 
Attending: ___
 
Chief Complaint:
Nausea
Chills
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with h/o IDDM, neuropathy, gastroparesis, h/o MI in ___, 
HTN  complains of nausea, somnolence, and chills. Her nausea 
began two days ago and was accompanied with chills. She denies 
having a fever at home; she also denies chest pain, shortness of 
breath, difficulty breathing, abdominal pain, diarrhea, or 
changes in neurological function. She did not have dysuria or 
flank pain but acknowledges increased urinary frequency. She has 
low back pain at baseline. 

Per report, her husband states she is not acting like her normal 
self and is specifically more slow to respond. 

In the ED, presenting VS were Tc 99.6 HR 92 BP 167/73 RR 18 
O2Sat 96%. She had one spike to 100.5, which was treated with 
Tylenol. There was difficulty with PIV access and consequently a 
left groin femoral line was placed. She received 2150cc NS and 
insulin for FSBG in the 200s. A Foley was placed that put out 
1300cc foul-smelling urine. UA was significant for >182 WBC, few 
bacteria. She was hyponatremic with Na 131, CBC with 18% bands. 
Two of two blood cultures were GNRs. She receieved 1g 
ceftriaxone, which was broadened to vancomycin and Zosyn. CT was 
unrevealing, with mild stranding around the kidneys bilaterally 
appears unchanged since ___. CXR did not show acute 
cardiopulmonary process. She was found to be poorly interactive 
on evaluation but improved with IVF. 
.
Vitals on transfer were Tc 99.9 HR 83 BP 128/52 RR 14 O2Sat 98% 
on RA
On arrival to the floor, patient reported that she was feeling 
much better, without pain, and feeling more clear than before.
.
ROS:
(+) Per HPI
 
Past Medical History:
- H/o DVT
- MI ___, no stents 
- DM type I. Followed by ___. 
- Peripheral neuropathy 
- gastroparesis 
- HTN 
- Hyperlipidemia 
- Hypothyroidism 
- PVD/PAD 
- Autonomic dysfunction, orthostatic hypotension 
- Barretts Esophagus on EGD ___ 
- Depression 
- S/p right BKA
- Hiatal hernia
- sciatica 
- S/p laminectomy
- S/p hysterectomy
 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 
___. 
Father - coronary artery disease with MI in her ___, died at age 
___.  

 
Physical Exam:
ADMISSION
---------
VS:  Tc 98.4 BP 145/46 HR 80 RR 20 O2Sat 98% on 1L
GENERAL: Alert, answering questions appropriately, NAD
HEENT: MMM. no LAD. no JVD. neck supple.
HEART: RRR S1/S2 heard. no gallops or rubs, ___ systolic murmur 
in LSB.
LUNGS: Mild crackles in b/l lung bases
ABDOMEN: soft, nontender, nondistended. no guarding or rebound.  
 
EXT: WWP, no edema.
SKIN: dry, no rash
NEURO/PSYCH: CNs II-XII grossly intact. EOMI, PERRLA, strength 
and sensation in BUE/BLE grossly intact aside from R BKA and L 
TA ___. gait not assessed.

DISCHARGE
---------
Vitals: Tm 98.5 Tc 98.5 BP 176/55 HR 79 RR 20 O2Sat 96% on RA
I/O: 8h: 0|Inc 24h: 720|4450+Inc
FSBG: 155|212|263|199
GENERAL: Alert, answering questions appropriately, NAD
HEENT: MMM. no JVD. neck supple.
HEART: RRR S1/S2 heard. no gallops or rubs, ___ systolic murmur 
in LSB.
LUNGS: CTAB
ABDOMEN: soft, nontender, nondistended. no guarding or rebound.  
 
EXT: WWP, no edema.
SKIN: dry, no rash
NEURO/PSYCH: A&Ox3. CNs II-XII grossly intact. EOMI, PERRLA, 
strength and sensation in BUE/BLE grossly intact except for R 
BKA, L TA ___. gait not assessed. 
 
Pertinent Results:
ADMISSION
---------
___ 05:15PM BLOOD WBC-5.0 RBC-3.52*# Hgb-10.6*# Hct-32.4*# 
MCV-92 MCH-30.0 MCHC-32.6 RDW-13.9 Plt ___
___ 05:15PM BLOOD Neuts-72* Bands-18* Lymphs-8* Monos-2 
Eos-0 Baso-0 ___ Myelos-0
___ 05:15PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-OCCASIONAL Microcy-NORMAL Polychr-NORMAL
___ 05:15PM BLOOD Plt Smr-NORMAL Plt ___
___ 05:15PM BLOOD Glucose-234* UreaN-29* Creat-1.5* Na-131* 
K-4.9 Cl-92* HCO3-19* AnGap-25*
___ 05:15PM BLOOD ALT-30 AST-34 AlkPhos-183* TotBili-0.6
___ 05:15PM BLOOD Lipase-12
___ 05:15PM BLOOD cTropnT-<0.01
___ 05:15PM BLOOD Albumin-4.2 Calcium-9.3 Phos-2.5*# Mg-1.7
___ 09:03PM BLOOD ___ pO2-47* pCO2-43 pH-7.40 
calTCO2-28 Base XS-0 Intubat-NOT INTUBA
___ 05:30PM BLOOD Lactate-1.3
___ 10:46PM URINE Color-Yellow Appear-Hazy Sp ___
___ 10:46PM URINE Blood-SM  Nitrite-NEG Protein-300 
Glucose-150 Ketone-TR Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 10:46PM URINE RBC-3* WBC->182* Bacteri-FEW Yeast-NONE 
Epi-<1
___ 10:46PM URINE WBC Clm-FEW Mucous-RARE

DISCHARGE
---------
___ 08:05AM BLOOD WBC-9.0 RBC-3.07* Hgb-8.9* Hct-27.9* 
MCV-91 MCH-29.1 MCHC-31.9 RDW-13.6 Plt ___
___ 08:05AM BLOOD Glucose-144* UreaN-27* Creat-1.9* Na-138 
K-3.9 Cl-100 HCO3-24 AnGap-18
___ 08:05AM BLOOD Mg-1.4*

IMAGING
-------
___ CXR, PA & LAT
FINDINGS:  AP and lateral views of the chest.  The lungs are 
clear of focal consolidation or effusion or pulmonary vascular 
congestion.  The 
cardiomediastinal silhouette is within normal limits for 
technique.  Post-traumatic changes seen at the distal right 
clavicle and at the right humeral head as well. 
IMPRESSION:  No acute cardiopulmonary process. 

___ CT ABD & PELVIS WITH CONTRAST
FINDINGS: 
Abdomen:  The lung bases demonstrate dependent atelectasis and 
are otherwise clear.  No pleural or pericardial effusion is 
seen.  Coronary artery calcifications are partially imaged.  
Mitral anulus calcifications are noted.    
No acute abnormality is detected of the liver, gallbladder, 
spleen, atrophic pancreas, adrenal glands, kidneys, visualized 
portions of the ureters, stomach, small bowel, or colon.  Mild 
prominence of the central intrahepatic and extrahepatic biliary 
tree is noted.  Mild stranding around the kidneys bilaterally 
appears unchanged since ___.  There is no free intraperitoneal 
air or ascites.  The portal vein, superior mesenteric vein, and 
splenic vein appear patent.  The abdominal aorta is normal in 
caliber with patent branch vessels and severe atherosclerotic 
change.  
Pelvis:  Evaluation of intrapelvic organs is markedly limited 
due to artifact from bilateral hip hardware.  A Foley catheter 
is seen in the bladder, which contains air, likely secondary to 
instrumentation.  
Bilateral 10th rib fractures appear chronic.  No acute bony 
abnormality is detected.  Bilateral hip hardware is noted.   
IMPRESSION: 
No acute findings to explain patient's symptoms. 

___ CXR, PORTABLE AP
FINDINGS:  Heart is upper limits of normal in size.  Pulmonary 
vascular 
congestion is accompanied by interstitial edema.  Hazy opacity 
in right cardiophrenic angle region probably corresponds to a 
prominent pericardial fat pad in this region shown on CT abdomen 
of ___. Small right pleural effusion is noted. 

MICROBIOLOGY
------------
___ 5:15 pm BLOOD CULTURE

                            **FINAL REPORT ___

Blood Culture, Routine (Final ___: 
ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
   Cefazolin interpretative criteria are based on a dosage 
regimen of 2g every 8h. 
ESCHERICHIA COLI.    SECOND MORPHOLOGY.  FINAL SENSITIVITIES. 
   Cefazolin interpretative criteria are based on a dosage 
regimen of 2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |          ESCHERICHIA COLI
                             |          |   
AMPICILLIN------------  =>32 R     =>32 R
AMPICILLIN/SULBACTAM--  =>32 R       16 I
CEFAZOLIN-------------   <=4 S      <=4 S
CEFEPIME--------------   <=1 S      <=1 S
CEFTAZIDIME-----------   <=1 S      <=1 S
CEFTRIAXONE-----------   <=1 S      <=1 S
CIPROFLOXACIN---------<=0.25 S   <=0.25 S
GENTAMICIN------------   <=1 S      <=1 S
MEROPENEM-------------<=0.25 S   <=0.25 S
PIPERACILLIN/TAZO-----   <=4 S      <=4 S
TOBRAMYCIN------------   <=1 S      <=1 S
TRIMETHOPRIM/SULFA----  =>16 R     =>16 R

   Aerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___. ___ ON ___ AT 
0625. 
      GRAM NEGATIVE ROD(S). 

   Anaerobic Bottle Gram Stain (Final ___:    GRAM 
NEGATIVE ROD(S). 

___ 9:00 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 10:46 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

Blood Cultures from ___ pending
 
Brief Hospital Course:
___ with DM1, CAD, HTN, HLD who p/w nausea, somnolence, and 
chills with UTI and GNR sepsis.

# UTI with GNR Sepsis. The patient presented with nausea, 
somnolence, chills, and increased urinary frequency. In the ED, 
her UA was notable for >182 WBC, two of two blood cultures 
growing out GNRs, and WBC 9.6 with bandemia. She was initially 
treated with ceftriaxone, vancomycin, and Zosyn in the ED. This 
was narrowed to Zosyn due to GNRs growing from blood cultures. 
On discharge, blood and urine cultures demonstrated E. coli, 
sensitive to ciprofloxacin. IV fluids were given for 
resuscitation. Subsequent blood cultures were pending but so far 
negative for at least 48 hours. She was switched to 
ciprofloxacin PO on ___, and she was given a 14-day course 
(day 1 = ___ of antibiotics.

# ___. The patient's Cr steadily rose from her baseline of 
~1.4-1.5 to a high of 3.3 before trending downward. This was 
attributed to pre-renal etiology and/or ATN likely ___ sepsis. 
Her creatinine improved with IV fluids.

# Hyponatremia. The patient's Na on admission was 131. It was 
most likely secondary to sepsis and hypovolemia. She was treated 
with IV fluids, and her hyponatremia resolved.

# IDDM. The patient is on standing Lantus at home with a Humalog 
sliding scale. She reported a home baseline FSBG in the 200s. 
___ diabetes consult tailored her insulin regimen to the 
following: 14 units glargine with breakfast, 16 units glargine 
at bedtime; humalog insulin sliding scale.
                  Breakfast      Lunch        Dinner      
Bedtime 
Glucose        Insulin Dose Insulin Dose Insulin Dose  Insulin 
Dose 
71-119 mg/dL      6 Units       5 Units       6 Units    0 Units 

120-159 mg/dL     8 Units       7 Units       8 Units    0 Units 

160-199 mg/dL    10 Units       8 Units       9 Units    0 Units 

200-239 mg/dL    11 Units      10 Units      11 Units    1 Units 

240-279 mg/dL    12 Units      12 Units      13 Units    2 Units 

280-319 mg/dL    14 Units      14 Units      15 Units    3 Units 

320-359 mg/dL    16 Units      16 Units      17 Units    4 Units 

360-400 mg/dL    18 Units      18 Units      19 Units    5 Units 


# HTN. During the first few days of admission, her blood 
pressures were well-controlled on the floor with SBP in the 
140s. She was maintained on her home amlodipine and beta blocker 
was held in the setting of sepsis. Her home labetalol was 
continued before discharge with SBPs in the 140s-180s. She was 
started on hydralazine PO 10mg for episodes of high SBPs, but 
this was discontinued prior to discharge.

# Gastroparesis. Her gastroparesis was treated with her home 
Reglan, PPI, and ondansetron PRN.

# Anemia. The patient's HCT was ___ during admission and 
remained stable, given her baseline of ___.

# Low back pain, Sciatica. Well-controlled with methadone.
- Continued methadone

TRANSITIONAL ISSUES
- Will need follow-up with PCP, particularly with BP management
- Will need follow-up with endocrine for diabetes management
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
2. Amlodipine 10 mg PO DAILY 
3. Calcitriol 0.25 mcg PO DAILY 
4. Citalopram 40 mg PO DAILY 
5. Clopidogrel 75 mg PO DAILY 
6. cycloSPORINE 0.05 % ophthalmic 2 drops each eye three times 
daily 
7. FoLIC Acid 1 mg PO DAILY 
8. Gabapentin 300 mg PO TID 
9. Labetalol 600 mg PO BID 
10. Levothyroxine Sodium 88 mcg PO DAILY 
11. Lidocaine 5% Patch 1 PTCH TD QPM 
12. Methadone 5 mg PO BID 
13. Ondansetron 4 mg PO Q8H:PRN nausea 
14. Pantoprazole 40 mg PO Q24H 
15. Simvastatin 20 mg PO QPM 
16. Tiotropium Bromide 1 CAP IH DAILY 
17. Acetaminophen 500 mg PO Q6H 
18. Bisacodyl 10 mg PO DAILY:PRN constipation 
19. Docusate Sodium 100 mg PO BID 
20. Multivitamins 1 TAB PO DAILY 
21. Ferrous GLUCONATE 324 mg PO BID 
22. Metoclopramide 5 mg PO QIDACHS 
23. Senna 17.2 mg PO DAILY 
24. Cyanocobalamin 1000 mcg PO DAILY 
25. Fish Oil (Omega 3) Dose is Unknown  PO Frequency is Unknown 
26. Polyethylene Glycol 17 g PO DAILY 
27. Glargine 12 Units Breakfast
Glargine 10 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
28. Enoxaparin Sodium 30 mg SC Q24H 
Start: ___, First Dose: Next Routine Administration Time 

 
Discharge Medications:
1. FoLIC Acid 1 mg PO DAILY 
2. Acetaminophen 500 mg PO TID:PRN fever, pain 
3. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
4. Amlodipine 10 mg PO DAILY 
5. Citalopram 40 mg PO DAILY 
6. Clopidogrel 75 mg PO DAILY 
7. Labetalol 600 mg PO BID 
8. Metoclopramide 5 mg PO QIDACHS 
9. Tiotropium Bromide 1 CAP IH DAILY 
10. Bisacodyl 10 mg PO DAILY:PRN constipation 
11. Calcitriol 0.25 mcg PO DAILY 
12. cycloSPORINE 0.05 % OPHTHALMIC 2 DROPS EACH EYE THREE TIMES 
DAILY 
13. Levothyroxine Sodium 88 mcg PO DAILY 
14. Docusate Sodium 100 mg PO BID 
15. Ferrous GLUCONATE 324 mg PO BID 
16. Gabapentin 300 mg PO TID 
17. Glargine 14 Units Breakfast
Glargine 16 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
18. Lidocaine 5% Patch 1 PTCH TD QPM 
19. Methadone 5 mg PO BID 
20. Polyethylene Glycol 17 g PO DAILY 
21. Senna 17.2 mg PO DAILY 
22. Multivitamins 1 TAB PO DAILY 
23. Pantoprazole 40 mg PO Q24H 
24. Simvastatin 20 mg PO QPM 
25. Ciprofloxacin HCl 250 mg PO Q24H 
Last day ___ 
RX *ciprofloxacin 250 mg 1 tablet(s) by mouth Every 24 hours 
Disp #*8 Tablet Refills:*0
26. Cyanocobalamin 1000 mcg PO DAILY 
27. Ondansetron 4 mg PO Q8H:PRN nausea 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
E.coli Sepsis
Urinary Tract Infection
acute renal failure/ acute tubular necrosis
diabetes mellitus type I, uncontrolled with complications 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized at the ___ 
___ because you had nausea and were overall not feeling well. 
While you were in the Emergency Room, we found that you had a 
urinary tract infection and bacteria in your blood. We gave you 
antibiotics and intravenous fluids, which led to improvement in 
your symptoms. We continued to follow your blood cultures to 
monitor if any additional bacteria grew out from them, and none 
did.

You also had some kidney damage, most likely from the kidneys 
not getting enough blood flow as a result of the infection, and 
we monitored your kidney function. We gave you intravenous 
fluids that helped improve your kidney function.

It was a pleasure participating in your care.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___